US07745641B2
In a similar manner to Step 3 of Example 16, 4-chloro-5-methoxymethoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (3.01 g, 8.32 mmol) was dissolved in THF (110 mL), and the solution was treated with TMEDA (4.00 mL, 26.5 mmol), sec-butyl lithium-hexane solution (0.95 mol/L, 28.0 mL, 26.6 mmol) and iodine (2.53 g, 9.98 mmol), followed by purification by slurry using diisopropylether to obtain 4-chloro-5-methoxymethoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (3.90 g, yield 96%).

reactant | 4-chloro-5-methoxymethoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 8.32 mmol, 3.01 g | ClC1=C2C(N(C(C2=CC=C1OCOC)=O)C(C)(C1=CC=CC=C1)C)O | C19H20ClNO4
reactant | TMEDA | 26.5 mmol, 4.00 mL | CN(C)CCN(C)C | C6H16N2
reactant | iodine | 9.98 mmol, 2.53 g | II | I2
solvent | THF | 110 mL | C1CCOC1 | C4H8O
product | 4-chloro-5-methoxymethoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 3.90 g, yield 96% | ClC1=C2C(N(C(C2=C(C=C1OCOC)I)=O)C(C)(C1=CC=CC=C1)C)O | C19H19ClINO4
